US04680287
N-Octadecyl-N-(galactopyranosyl)amine
60 g of D-galactose are suspended in 330 ml of isopropanol and 170 ml of water, and the mixture is heated to 50°. After addition of 90 g of stearylamine, the mixture is stirred until all the amine has gone into solution. On cooling, the glycosylamine crystallizes out. The solid is filtered off with suction, washed consecutively with ethanol and with ether, and dried in vacuo.

reactant | D-galactose | 60 g | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
reactant | stearylamine | 90 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
solvent | isopropanol | 330 ml | C(C)(C)O | C3H8O
solvent | water | 170 ml | O | H2O
product | N-Octadecyl-N-(galactopyranosyl)amine | C(CCCCCCCCCCCCCCCCC)NC1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO | C24H49NO5
